US07396852B2
(a) 2,8-Bis(2-thienyl)-5,11-didodecylindolo[3,2-b]carbazole (Scheme 3)
ALIQUAT™336 (0.6 g), 2-thiopheneboronic acid (0.921 g, 7.2 mmol), 2,8-dibromo-5,11-didodecylindolo[3,2-b]carbazole (2.252 g, 3 mmol), 2M Na2CO3 solution (7.5 mL, 15 mmol), Pd(PPh3)4 (72 mg, 0.06 mmol) and toluene (10 mL) were added into a 50 mL flask. The mixture was heated to gentle reflux and maintained for 48 h. The reaction mixture was cooled down, organic layer separated, dried, and filtered. The toluene solution was passed through a silica gel column and the solvent was removed. Recrystallization from toluene gave the title compound as a yellow solid. Yield: 1.476 g (61%).

reactant | 2-thiopheneboronic acid | 7.2 mmol, 0.921 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 2,8-dibromo-5,11-didodecylindolo[3,2-b]carbazole | 3 mmol, 2.252 g | BrC=1C=C2C(=CC1)N(C=1C2=CC=2N(C3=CC=C(C=C3C2C1)Br)CCCCCCCCCCCC)CCCCCCCCCCCC | C42H58Br2N2
reactant | Na2CO3 | 15 mmol, 2M, 7.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.06 mmol, 72 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2,8-Bis(2-thienyl)-5,11-didodecylindolo[3,2-b]carbazole | S1C(=CC=C1)C=1C=C2C(=CC1)N(C=1C2=CC=2N(C3=CC=C(C=C3C2C1)C=1SC=CC1)CCCCCCCCCCCC)CCCCCCCCCCCC | C50H64N2S2
